US04131736
b. PREPARATION OF SULFO-METHYL-SUCCINIC ANHYDRIDE
114 g. of methyl-succinic anhydride and 80 g. of liquid sulfur trioxide are stirred and heated to 110° C. in an apparatus fitted with a condenser adequate to contain the low boiling sulfur trioxide. After 1 hour, the product is cooled to 25° C. and has an equivalent weight of about 65. It is stored as a solution in methyl methacrylate.

reactant | methyl-succinic anhydride | CC1C(=O)OC(C1)=O | C5H6O3
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
solvent | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
product | SULFO-METHYL-SUCCINIC ANHYDRIDE | S(=O)(=O)(O)C1(C(=O)OC(C1)=O)C | C5H6O6S
